US05360800
4-(Chloromethyl)-N,N,5-trimethyl-1H-imidazole-1-sulphonamide
A suspension of 4-(hydroxymethyl)-N,N,5-trimethyl-1H-imidazole-1-sulphonamide (2.86 g) in dry dichloromethane (200 ml) containing DMF (0.5 ml) was treated dropwise with a solution of thionyl chloride (1.178 g) in dichloromethane (10 ml). The reaction mixture was cooled in ice during the addition and blanketed with nitrogen. When addition was complete (ca. 5 min), stirring was continued at 0° for a further 30 min. Water (200 ml) was then added and the organic phase was separated, washed with 8% sodium bicarbonate (100 ml), dried and concentrated to give the title compound (2.3 g) as a solid, m.p. 115°-118°.

reactant | 4-(hydroxymethyl)-N,N,5-trimethyl-1H-imidazole-1-sulphonamide | 2.86 g | OCC=1N=CN(C1C)S(=O)(=O)N(C)C | C7H13N3O3S
reactant | DMF | 0.5 ml | CN(C)C=O | C3H7NO
reactant | thionyl chloride | 1.178 g | S(=O)(Cl)Cl | Cl2OS
reactant | Water | 200 ml | O | H2O
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 4-(Chloromethyl)-N,N,5-trimethyl-1H-imidazole-1-sulphonamide | 2.3 g | ClCC=1N=CN(C1C)S(=O)(=O)N(C)C | C7H12ClN3O2S
